US07855216B2
Step 1: Trifluoro-methanesulfonic acid 2-chloro-4-isopropyl-phenyl ester
Trifluoromethanesulfonic anhydride (2.14 g, 7.6 mmol) was dissolved in DCM (5 ml) and cooled to 5° C. To this was added 2-chloro-4-isopropyl-phenol (1.23 g, 7.2 mmol), in 10 ml DCM and 1.75 ml pyridine, dropwise. The reaction mixture was stirred at 110° C. for 2 hours. The resultant dark solution was washed with 1M HCl (20 ml), water (20 ml) and saturated aqueous NaHCO3 (20 ml). The DCM extract was dried and concentrated in vacuo to provide the title compound as a dark orange oil (1.71 g, 78%). 1H NMR (CDCl3) 1.22-1.29 (6H, d, J=6.87 Hz), 2.88-3.00 (1H, sept, J=6.89 Hz), 7.15-7.20 (1H, m), 7.24 (1H, d, J=8.36 Hz), 7.36 (1H, d, J=2.17 Hz).

reactant | Trifluoromethanesulfonic anhydride | 7.6 mmol, 2.14 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-chloro-4-isopropyl-phenol | 7.2 mmol, 1.23 g | ClC1=C(C=CC(=C1)C(C)C)O | C9H11ClO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.75 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 2-chloro-4-isopropyl-phenyl ester | 1.71 g, 78% | ClC1=C(C=CC(=C1)C(C)C)OS(=O)(=O)C(F)(F)F | C10H10ClF3O3S
